US07053249B2
Synthesis of 1,3-dinaphthyl-1,3-propanedione (3):
4.75 gr of 50% slurry of sodium amide was suspended in 150 ml of anhydrous ether in a 250 ml round bottom flask that was equipped with a magnetic stir bar and a condenser. To this suspension was added 5.1 gr of solid acetonaphthone and continued stirring for 5 min at room temperature. After 5 minutes, 5.58 gr of methyl-2-naphthoate was added in one lot. At this point, the reaction flask was transferred to an oil bath and the bath temperature was raised so that the contents reflux gently in ether for 3 hours. The contents were then poured onto 300 gr of solid ice. On acidification with conc. HCl, solid product fell out of solution. The solid product was filtered and recrystallized in ether/methanol mixture.

reactant | sodium amide | [NH2-].[Na+]
reactant | acetonaphthone | C(C)(=O)C1=CC=CC2=CC=CC=C12 | C12H10O
reactant | methyl-2-naphthoate | 5.58 gr | COC(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O2
reactant | HCl | Cl | ClH
reactant | ether | 150 ml | CCOCC | C4H10O
product | 1,3-dinaphthyl-1,3-propanedione | C1(=CC=CC2=CC=CC=C12)C(CC(=O)C1=CC=CC2=CC=CC=C12)=O | C23H16O2
